US08058245B2
1-Deoxy-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose
To a solution of 1-deoxy-2,3,4,6-tetra-O-benzyl-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose (1.1 g) in methanol (10 mL) and tetrahydrofuran (5 mL) was added 10% palladium-carbon powder (0.50 g), and the mixture was stirred at room temperature for 5 hours under a hydrogen atmosphere. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.47 g).

reactant | 1-deoxy-2,3,4,6-tetra-O-benzyl-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose | 1.1 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C=C1)OC)OC | C42H44O7
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | 1-Deoxy-1-(2,4-dimethoxyphenyl)-β-D-glucopyranose | 0.47 g | COC1=C(C=CC(=C1)OC)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H20O7
